US04808595
Step A: Preparation of N,N-Dimethyl-N'-[6-(hydroxymethyl)furo[3,2-c]pyridine-2-sulfonyl]formamidine
N,N-Dimethylformamide dimethyl acetal (1.0 ml, 0.007 mole) was added dropwise (10 minutes) to a suspension of 6-hydroxymethyl-2-sulfamoylfuro[3,2-c]pyridine (1.33 g, 0.005% mole) in acetonitrile (25 ml). The mixture was stirred at room temperature under N2 for 40 hours. The reaction mixture was diluted with CHCl3 and washed with water. The organic phase was separated, dried (Na2SO4) and filtered through charcoal. The filtrate was concentrated to dryness and the residue recrystallized from ethyl acetate to give the product as a yellow solid 0.8 g (48% yield). Recrystallization from methanol/ethyl acetate gave an analytical sample, mp: 161°-163° C.

reactant | N,N-Dimethylformamide dimethyl acetal | 0.007 mole, 1.0 ml | COC(N(C)C)OC | C5H13NO2
reactant | 6-hydroxymethyl-2-sulfamoylfuro[3,2-c]pyridine | 1.33 g | OCC1=CC2=C(C=N1)C=C(O2)S(N)(=O)=O | C8H8N2O4S
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | N,N-Dimethyl-N'-[6-(hydroxymethyl)furo[3,2-c]pyridine-2-sulfonyl]formamidine | 0.8 g, 48% yield | CN(C=NS(=O)(=O)C1=CC=2C=NC(=CC2O1)CO)C | C11H13N3O4S
